US07078438B2
Step B: Preparation of 3,4-difluoro-2-{2-fluoro-4-[4-(tetrahydro-2H-pyran-2-yloxy)-1-butynyl]anilino}benzoic acid
2,3,4-Trifluorobenzoic acid and 2-fluoro-4-[4-(tetrahydro-2H-pyran-2-yloxy)-1-butynyl]aniline were reacted in the presence of LiHMDS solution by the general procedure of Example 1, Step B. After workup, followed by purification by column chromatography on silica gel (50% EtOAc as eluant), unreacted aniline (26%), followed by 3,4-difluoro-2-{2-fluoro-4-[4-(tetrahydro-2H-pyran-2-yloxy)-1-butynyl]anilino}benzoic acid (31%) were isolated; m.p. (Et2O/hexane) 175–178° C. 1H NMR [400 MHz, (CD3)2SO] δ 13.55 (v br s, 1 H), 9.28 (br s, 1 H), 7.82 (ddd, J=8.2, 6.0, 1.8 Hz, 1 H), 7.25 (dd, J=12.0, 1.7 Hz, 1 H), 7.16–7.08 (m, 2 H), 6.95 (ddd, J=8.8, 8.8, 5.4 Hz, 1 H), 4.66 (t, J=3.4 Hz, 1 H), 3.83–3.70 (m, 2 H), 3.59–3.41 (m, 2H), 2.68 (t, J=6.8 Hz, 1 H), 1.78–1.58 (m, 2 H), 1.53–1.40 (m, 4 H). Anal. calcd. for C22H20F3NO4: C, 63.0; H, 4.8; N, 3.3. Found C, 63.0; H, 4.8; N, 3.5.

reactant | 2,3,4-Trifluorobenzoic acid | FC1=C(C(=O)O)C=CC(=C1F)F | C7H3F3O2
reactant | 2-fluoro-4-[4-(tetrahydro-2H-pyran-2-yloxy)-1-butynyl]aniline | FC1=C(N)C=CC(=C1)C#CCCOC1OCCCC1 | C15H18FNO2
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | Et2O hexane | CCOCC.CCCCCC
product | 3,4-difluoro-2-{2-fluoro-4-[4-(tetrahydro-2H-pyran-2-yloxy)-1-butynyl]anilino}benzoic acid | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)C#CCCOC1OCCCC1)F | C22H20F3NO4
